US05536718
4-[[2-(Phenylmethyl)benzoyl]amino]benzoyl Chloride
A mixture of 2.0 g of 4-[[2-(phenylmethyl)benzoyl]amino]benzoic acid in 2.0 ml of thionyl chloride is heated on a steam bath for 1 hour. The volatiles are evaporated in vacuo to give 1.53 g of the desired product as an oil. M+ =346 as methyl ester.

reactant | 4-[[2-(phenylmethyl)benzoyl]amino]benzoic acid | 2.0 g | C1(=CC=CC=C1)CC1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C21H17NO3
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[[2-(Phenylmethyl)benzoyl]amino]benzoyl Chloride | 1.53 g | C1(=CC=CC=C1)CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C21H16ClNO2
